US08202999B2
To a stirred solution of 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine (5.2 g, 24 mmol), TEA (5 mL) in dry DCM (50 mL) at 0° C. was added 2,6-difluoro-benzoyl chloride (3.0 mL, 24 mmol) dropwise. The mixture was allowed to warm to to room temperature over 2 h before it was washed with water (2×100 mL) and dried. Removal of solvents gave 2,6-difluoro-N-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-benzamide (8.4 g, 23 mmol) as white solid.

reactant | 4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenylamine | 24 mmol, 5.2 g | CC1(OB(OC1(C)C)C1=CC=C(C=C1)N)C | C12H18BNO2
reactant | 2,6-difluoro-benzoyl chloride | 24 mmol, 3.0 mL | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2,6-difluoro-N-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-benzamide | 23 mmol, 8.4 g | FC1=C(C(=O)NC2=CC=C(C=C2)B2OC(C(O2)(C)C)(C)C)C(=CC=C1)F | C19H20BF2NO3
